Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Bleeding AVG
 
Major Surgical or Invasive Procedure:
___ right arm AVG revision for hole

 
History of Present Illness:
___ with brachial axillary graft ___ revised with jump
graft in ___ s/p thrombectomy and angioplasty of subclavian and
venous stenosis, and last seen in ED ___ for evaluation of scab
over her graft presents with frank ___ L bleeding from UE AVG. 
Patient was at home about to have breakfast when she had
significant bleeding >500 cc from the former scabbed area of her
graft.  EMS was called and estimated ___ L EBL before an
occlusive pressure dressing was secured to RUE.  ___ vitals in ED
SBP 100s, good mentation with out bleeding through pressure
dressing.  Patient complaining of right hand numbness and
weakness since application of dressing. ___ missed HD yesterday. 
Upon Stitch of open AVG with precipitous bleeding pt dropped BP
sbp to 80 with mild nausea, with recovery within 5 minutes to BP
130s, HR ___. BS 250s in ED. ___ states she had a previous HD 
line
on the left at the time of HD initiation, per records also a 
left
PICC. HD is M, W, F although pt missed yesterday's session due 
to
snow storm. She denies chest pain, bleeding problems, <4mets
baseline activity.

 
Past Medical History:
IDDM2 (dx ___ yrs ago), mult admissions for uncontrolled DM  
ESRD on hemodialysis (M, W, F)  
HTN  
Hypercholestolemia  
PSH:  
Jump graft revision with thrombectomy of right  
upper extremity AV graft ___  
___ RUE AVG revision

 
Social History:
___
Family History:
father died of etoh-induced cirrhosis ___ y/o  
mother died of pna at ___ y/o  
grandmother had DM  
5 siblings w/o DM  

 
Physical Exam:
PE: T  HR:  Bp: 105/60> 70/50> 130/80  RR:18  O2 sat: 
GEN: NAD, A&O answering all questions appropriately
___: RRR
Abd: S/NT/ND
Ext: Upon initial evaluation pressure dressing around arm with
inability to palpate radial pulse on the right with decreased
sensation and motor function. Upon removal of pressure dressing
frank precipitous bleeding from opening in skin with graft
palpated directly beneath (not visualized because of bleeding). 
Control stick applied with control of blood loss, no expanding
hematoma, and increased motor and sensory of right hand with
return of radial pulse.

6.9 >----< 208 
     22.0   N:63.7 L:28.1 M:5.0 E:2.6 Bas:0.6

141  100  36    AGap=22 
-------------<253
5.7  25  9.8 
Comments: K: Hemolyzed

 
Pertinent Results:
___ 11:15AM BLOOD WBC-6.9 RBC-2.74*# Hgb-6.5*# Hct-22.0*# 
MCV-80* MCH-23.8* MCHC-29.7* RDW-18.3* Plt ___
___ 05:25AM BLOOD Glucose-155* UreaN-32* Creat-8.1*# Na-139 
K-5.0 Cl-96 HCO3-35* AnGap-13
___ 05:25AM BLOOD Glucose-155* UreaN-32* Creat-8.1*# Na-139 
K-5.0 Cl-96 HCO3-35* AnGap-13
___ 05:25AM BLOOD Albumin-2.7* Calcium-7.5* Phos-4.1 Mg-2.0
___ 05:25AM BLOOD Vanco-PND
 
Brief Hospital Course:
___ with RUE brachial-axillary AVG with jump present with 
bleeding form RUE. She 
transfused with PRBC for hct of 22 and taken to OR for graft 
revision. Surgeon was Dr. ___. A hole was found in the 
graft. A segment of the graft was excised and replaced with a 
new graft segment. Post procedure she was dialyzed for 0.6 
liters. Overnight, she was stable. Pain was treated with 
oxycodone. 

On ___, hemodialysis was done using the AVG sticking below the 
incisions. She tolerated dialysis with 2.0L removed. Flows were 
on the low side concerning for outflow stenosis. 

The plan was to give IV Vancomycin while at ___ for 4 weeks given 
preop exposed graft. An appointment at ___ was to be 
arranged for ___ weeks to do a fistulagram to assess for central 
stenosis.

At the time of discharge, patient was tolerating a regular diet 
with pain well controlled and family present to see her home.  

 
Medications on Admission:
ASA 81  
Ca Carb 1 tab TID with meals  
Clonidine 0.2mg ___  
Colace 200mg qd  
Folic acid 1mg daily  
NPH 20U qAM  
Meotprolol 50mg BID  
Amlodipine 10mg daily  
Famotidine 20mg daily  
Pravachol 20mg daily  
Renagel 1600mg with meals  
Vit B complex daily  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ESRD
bleeding AVG
DM
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Please call Dr. ___ office ___ if you have 
any of the following: 
fever, chills, right arm graft incisions have 
redness/drainage/bleeding, right arm feels cold/numb or appears 
dusky or more swollen. 
Keep dressing on for 2 days then remove. Keep arm incisions 
clean and dry. 
Resume your usual dialysis schedule
 
Followup Instructions:
___